US03992432
A mixture of 100 grams (0.45 mole) of 1-bromodecane, 160 grams (1.98 moles)of sodium thiocyanate, 50 ml water and 10 grams of tricaprylylmethylammonium chloride was heated to 88°-105° C with stirring over a period of 2 hours. Examination of the reaction mixture by gas liquid partition chromatography showed that 100% conversionof the 1-bromodecane had occurred to give 1-thiocyanodecane.

reactant | 1-bromodecane | 0.45 mole, 100 grams | BrCCCCCCCCCC | C10H21Br
reactant | sodium thiocyanate | 1.98 moles, 160 grams | [S-]C#N.[Na+]
reactant | tricaprylylmethylammonium chloride | 10 grams | [Cl-].C(CCCCCCC)(=O)C(C(CCCCCCC)=O)(C(CCCCCCC)=O)[NH3+]
solvent | water | 50 ml | O | H2O
product | 1-thiocyanodecane | S(C#N)CCCCCCCCCC | C11H21NS
